US06790962B2
N-Decyl-4-aminoquinaldinium iodide (2).
This compound was prepared by mixing commercially available iododecane and 4-aminoquinaldine in methyl ethyl ketone, and refluxing for 72 h. The solid product was collected by filtration and recrystallized twice in absolute ethanol. 1H NMR (in DMSO-d6): δ 0.85 (t, J=5.1 Hz, 3H), 1.24 (br, 12H), 1.43 (m, 2H), 1.70 (m, 2H), 2.73 (s, 3H), 4.45 (t, J=8.09 Hz, 2H), 6.73 (s, 1H), 7.72 (dd, 1H), 8.02 (dd, 1H), 8.15 (d, J=8.94 Hz, 1H), 8.43 (d, J=8.37 Hz), 8.81 (br, 2H). Elemental analysis Calcd for C20H31N21: C, 56.33%; H, 7.33%; N, 6.57%. Found: C, 56.23%; H, 7.41%; N, 6.42%. MS, [M-I−]=299 (m/z) (calcd 299.47 for C20H31N2).

reactant | iododecane | ICCCCCCCCCC | C10H21I
reactant | 4-aminoquinaldine | NC1=CC(=NC2=CC=CC=C12)C | C10H10N2
solvent | methyl ethyl ketone | C(C)C(=O)C | C4H8O
product | N-Decyl-4-aminoquinaldinium iodide | [I-].C(CCCCCCCCC)[N+]1=C(C)C=C(C2=CC=CC=C12)N | InChI=1S/C20H30N2.HI/c1-3-4-5-6-7-8-9-12-15-22-17(2)16-19(21)18-13-10-11-14-20(18)22;/h10-11,13-14,16,21H,3-9,12,15H2,1-2H3;1H
